US08034945B2
(b). 3-Bromo-4-(3-methoxy-benzyloxy)-5-nitro-benzaldehyde
To a solution of 3-bromo-4-hydroxy-5-nitro-benzaldehyde (87.4 mg) in dry dichloromethane (7.5 ml) was added 3-methoxybenzyl alcohol (35 μl), triphenylphosphine (103 mg) and diethyl azodicarboxylate (45 μl). The mixture was stirred under a nitrogen atmosphere for 17 h and then concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 9/1→1/1 (v/v) as eluent.

reactant | 3-bromo-4-hydroxy-5-nitro-benzaldehyde | 87.4 mg | BrC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H4BrNO4
reactant | 3-methoxybenzyl alcohol | 35 μl | COC=1C=C(CO)C=CC1 | C8H10O2
reactant | triphenylphosphine | 103 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 45 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
product | 3-Bromo-4-(3-methoxy-benzyloxy)-5-nitro-benzaldehyde | BrC=1C=C(C=O)C=C(C1OCC1=CC(=CC=C1)OC)[N+](=O)[O-] | C15H12BrNO5
